US04622418
N-Cbz-1-(2-Aminopropoxy)-2,2,3,5-tetramethylcyclopentane is dissolved in CH3OH and hydrogenated over 5% Pd/C in a Parr hydrogenation apparatus. When the reaction is complete the mixture is filtered through Celite and concentrated to yield 1-(2-amino-propoxy)-2,2,5,5-tetramethylcyclopentane.

reactant | N-Cbz-1-(2-Aminopropoxy)-2,2,3,5-tetramethylcyclopentane | C(=O)(OCC1=CC=CC=C1)NC(COC1C(C(CC1C)C)(C)C)C | C20H31NO3
reactant | CH3OH | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 1-(2-amino-propoxy)-2,2,5,5-tetramethylcyclopentane | NC(COC1C(CCC1(C)C)(C)C)C | C12H25NO
